US05280027
Triethylamine (206 g) and 4-methoxybenzyl chloride (89 g) were added in turn to a solution of cysteine hydrochloride (107 g) in a 2:1 v/v mixture of ethanol and water (1000 ml). The mixture was stirred at laboratory temperature for 16 hours. The mixture was filtered to give S-(4-methoxybenzyl)cysteine (107.4 g). The filtrate was stored -10° C. for 48 hours and a second crop (22.3 g) of the cysteine derivative was obtained.

reactant | Triethylamine | 206 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzyl chloride | 89 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | cysteine hydrochloride | 107 g | Cl.N[C@@H](CS)C(=O)O
reactant | ethanol | C(C)O | C2H6O
solvent | water | 1000 ml | O | H2O
product | S-(4-methoxybenzyl)cysteine | 107.4 g | COC1=CC=C(CSC[C@H](N)C(=O)O)C=C1 | C11H15NO3S
